US05969139
3-Amino-5,5-dimethyl-2-cyclohexen-1-one was reacted with 3-benzyloxybenzaldehyde in an analogous manner to that described in Example 1 to give 9-(3-benzyloxyphenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione. Crystallization from ethanol gave a cream coloured crystalline solid of melting point >300° C. (decomposition).

reactant | 3-Amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 3-benzyloxybenzaldehyde | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C14H12O2
product | 9-(3-benzyloxyphenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)(C)C)=O | C30H33NO3
